US06774242B1
2-Morpholinopropyloxynitrobenzene
0.57 g 2-fluoronitrobenzene, 0.65 g morpholino-propanol., 3.0 g caesium carbonate and 30 ml dimethylformamide are stirred for 2 days at room temperature in a closed 50 ml round-bottomed flask. One pours the suspension on to 50 ml water, extracts the aqueous phase 3 times with, in each case, 50 ml ethyl acetate and evaporates the combined organic phases on a rotavapor. For the removal of the dimethylformamide, which would disturb the chromatographic separation, the DMF-containing residue is again evaporated 2 to 3 times, together with some toluene, at 50° C. and 30 mbar vacuum. The oily residue is then purified on silica gel (0.04 to 0.063 mm) at 0.1 bar by flash chromatography. One obtains 0.9 g of oil (82.4%).

reactant | 2-fluoronitrobenzene | 0.57 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | morpholino-propanol | 0.65 g | O1CCN(CC1)C(CC)O | C7H15NO2
reactant | caesium carbonate | 3.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | 2-Morpholinopropyloxynitrobenzene | 0.9 g, 82.4% | O1CCN(CC1)C(COC1=C(C=CC=C1)[N+](=O)[O-])C | C13H18N2O4
